US05593988
4-(2-Chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (3.4 g) and sodium hydride (0.56 g) were added to diethyl carbonate (50 ml) and the mixture was heated. After refluxing for 1 hour, the reaction mixture was cooled to 20° C., and O-(2,4-dinitrophenyl)-hydroxylamine (2.1 g) was added thereto. The mixture was stirred for 2 hours. After the reaction, the reaction mixture was poured into ice water, and the diethyl carbonate layer was separated. The diethyl carbonate layer was washed twice with water, and dried over anhydrous magnesium sulfate. Diisopropyl ether was added to the residue obtained by distilling away diethyl carbonate under reduced pressure. The precipitated crystals were collected by filtration and recrystallized from ethyl acetate to give 2.1 g of ethyl(6-amino-4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)carboxylate having a melting point of 140°-145° C. Ethyl(6-amino-4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)carboxylate (1.8 g) was dissolved in a mixture of ethanol (60 ml) and water (20 ml) and barium hydroxide 8 hydrate (1.14 g) was added thereto. The mixture was stirred at room temperature for 24 hours. The solvent was distilled away under reduced pressure and water (50 ml) was added thereto. The mixture was adjusted to pH 2 with 1N hydrochloric acid and stirred for 1 hour. The reaction mixture was neutralized with aqueous sodium hydrogencarbonate and extracted twice with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The residue was purified by silica gel column chromatography. The solvent was distilled away and the crystals obtained were recrystallized from diisopropyl ether to give 1.0 g of 6-amino-4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine having a melting point of 175°-176° C.

reactant | 4-(2-Chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 3.4 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)C2CCCCC2 | C22H23ClN4S
reactant | sodium hydride | 0.56 g | [H-].[Na+]
reactant | O-(2,4-dinitrophenyl)-hydroxylamine | 2.1 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])ON | C6H5N3O5
reactant | diethyl carbonate | 50 ml | C(OCC)(OCC)=O | C5H10O3
product | ethyl(6-amino-4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)carboxylate | 2.1 g | C(C)OC(=O)C1(C=2N(C3=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(S3)CC)C(=NN2)C2CCCCC2)N | C25H28ClN5O2S
